US07253196B2
5-benzyl-2-[(cyclohexylmethyl)amino]-1,3-oxazol-4(5H)-one
Synthesis was performed from 2-amino-5-benzyl-1,3-oxazol-4(5H)-one and aminomethylcyclohexane according to Method G+H.

reactant | 2-amino-5-benzyl-1,3-oxazol-4(5H)-one | NC=1OC(C(N1)=O)CC1=CC=CC=C1 | C10H10N2O2
reactant | aminomethylcyclohexane | NCC1CCCCC1 | C7H15N
product | 5-benzyl-2-[(cyclohexylmethyl)amino]-1,3-oxazol-4(5H)-one | C(C1=CC=CC=C1)C1C(N=C(O1)NCC1CCCCC1)=O | C17H22N2O2
